US04792614
To a solution of 23.1 g (0.16 mol) of propargylmagnesium bromide (J. Am. Chem. Soc., 83, 1686, 1961) in 50 mL of dry diethyl ether at 25° C. was added 20.0 g (0.115 mol) of 2-chloro-4'-fluoroacetophenone in 150 mL of diethyl ether over a 0.25 hour period. The solution was stirred at 25° C. for 15 hours and then quenched with 50 mL of saturated NH4Cl. The layers were separated and the aqueous phase extracted twice with 100 mL diethyl ether. The combined ether extracts were dried (MgSO4) and the solvent removed at reduced pressure. This residue was dissolved in 250 mL of dry diethyl ether and added to 4.9 g of pulverized NaOH. This mixture was stirred at 24° C. for 3.5 hours and then 0.5 g of NaOH was added. After an additional 2.5 hours, the mixture was poured into 100 mL of H2O and extracted with diethyl ether. The ether layer was separated, dried (MgSO4) and concentrated under reduced pressure. Distillation under reduced pressure (94°-95° C. at 0.65 mmHg) yielded 16 g (79%) of 4,5-epoxy-4-(4'-fluorophenyl)-1-pentyne as an oil, homogeneous by TLC and spectroscopic criteria; Rf 0.75 (1:1 hexanes-diethyl ether): IR (film) 3290, 1600, 1505, 1225 cm-1 ; 1HNMR (300 MHz, CDCl3) δ 7.5-7.4 (m, 2H), 7.1-7.05 (m, 2H, 3.02 (ABq, 2H, JAB =6.0 Hz, ΔνAB =119.8 Hz), 2.92 (t, 2H, J=2 Hz), 2.07 (t, 1H, J=2 Hz).

reactant | propargylmagnesium bromide | 0.16 mol, 23.1 g | C(C#C)[Mg]Br
reactant | 2-chloro-4'-fluoroacetophenone | 0.115 mol, 20.0 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 4,5-epoxy-4-(4'-fluorophenyl)-1-pentyne | 16 g, 79% | O1C(CC#C)(C1)C1=CC=C(C=C1)F | C11H9FO
